US05366972
c) 5-Bromo-2-chloro-6-(N,N-dimethylamino)-4-methylpyridine-3-carboxamide
A solution of 5-bromo-2-chloro-3-cyano-6-(N,N-dimethylamino)-4-methylpyridine (1.3 g) in concentrated sulfuric acid (3 mL) was heated at 120° C. for 10 minutes. The mixture was cooled, diluted with water (50 mL), and neutralized with saturated sodium carbonate. After extraction with methylene chloride, evaporation of the organic phase gave 1.37 g of the title compound, suitable for use in the next reaction.

reactant | 5-bromo-2-chloro-3-cyano-6-(N,N-dimethylamino)-4-methylpyridine | 1.3 g | BrC=1C(=C(C(=NC1N(C)C)Cl)C#N)C | C9H9BrClN3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 mL | O | H2O
product | 5-Bromo-2-chloro-6-(N,N-dimethylamino)-4-methylpyridine-3-carboxamide | 1.37 g | BrC=1C(=C(C(=NC1N(C)C)Cl)C(=O)N)C | C9H11BrClN3O
